US07196197B2
A mixture of methyl 2,5-bis(2,2,2-trifluoroethoxy)benzoate (1.5 g), 2-(aminomethyl)piperidine (0.62 g) in toluene (3 ml) was stirred at reflux for 10 hours. After cooling to room temperature, water (10 ml) was added and two layers solution were separated. The aqueous layer was extracted with toluene (2×10 ml) and the combined organic layers were washed with water (3×10 ml). The organic layer was concentrated under reduced pressure to give Flecainide free base as a white solid (1.63 g, 85%).

reactant | methyl 2,5-bis(2,2,2-trifluoroethoxy)benzoate | 1.5 g | FC(COC1=C(C(=O)OC)C=C(C=C1)OCC(F)(F)F)(F)F | C12H10F6O4
reactant | 2-(aminomethyl)piperidine | 0.62 g | NCC1NCCCC1 | C6H14N2
reactant | water | 10 ml | O | H2O
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
product | Flecainide | 1.63 g, 85% | C1=CC(=C(C=C1OCC(F)(F)F)C(=O)NCC2CCCCN2)OCC(F)(F)F | C17H20F6N2O3
